US05034151
Into a mixture of 0.3 g (1.28×10-3 mol) of 1-methylpropyl-5-[4-hydroxyphenyl]-1,3,4-thiadiazole, 0.26 g (1.31×10-3 mol) of trans-4-n-pentylcyclohexanecarboxylic acid, 0.27 g (1.31×10-3 mol) of dicyclohexylcarbodiimide and 0.03 g of 4-(1-pyrrolidinyl)pyrimidine, 15 ml of methylene chloride was added, followed by 20 hours of stirring at room temperature. After the reaction, the reaction was filtered and the solid was washed with methylene chloride. The filtrate and the washing liquid were dehydrated, and the solvent was distilled off therefrom to obtain a crude product, which was then recrystallized twice to obtain 0.24 g of 2-(1-methylpropyl)-5-[4-(trans-4-n-pentylcyclohexylcarbonyloxy)-phenyl]-1,3,4-thiadiazole. (Yield: 45.2%).

reactant | 1-methylpropyl-5-[4-hydroxyphenyl]-1,3,4-thiadiazole | 1.28×10-3 mol, 0.3 g | CC(CC)C=1SC(=NN1)C1=CC=C(C=C1)O | C12H14N2OS
reactant | trans-4-n-pentylcyclohexanecarboxylic acid | 1.31×10-3 mol, 0.26 g | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
reactant | dicyclohexylcarbodiimide | 1.31×10-3 mol, 0.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(1-pyrrolidinyl)pyrimidine | 0.03 g | N1(CCCC1)C1=NC=NC=C1 | C8H11N3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-(1-methylpropyl)-5-[4-(trans-4-n-pentylcyclohexylcarbonyloxy)-phenyl]-1,3,4-thiadiazole | 0.24 g, Yield: 45.2% | CC(CC)C=1SC(=NN1)C1=CC=C(C=C1)OC(=O)[C@@H]1CC[C@H](CC1)CCCCC | C24H34N2O2S
